US08071586B2
I) (R)-4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-methoxymethyl-propyl]-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid (3-chloro-phenyl)-amide
In analogy to the procedure described for intermediate 58F, (R)-4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-methoxymethyl-propyl]-2-methyl-[1,4]diazepan-5-one dihydrochloride and 3-chlorophenyl isocyanate gave the title compound in 58% yield as yellow oil. MS: 493.4 (MH+, 1Cl).

reactant | (R)-4-[(S)-3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-methoxymethyl-propyl]-2-methyl-[1,4]diazepan-5-one dihydrochloride | Cl.Cl.O[C@H]1C2(CC2)CCN(C1)CC[C@@H](COC)N1C[C@H](NCCC1=O)C
reactant | 3-chlorophenyl isocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
product | (R)-4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-methoxymethyl-propyl]-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid (3-chloro-phenyl)-amide | 58% yield | ClC=1C=C(C=CC1)NC(=O)N1[C@@H](CN(C(CC1)=O)[C@@H](CCN1C[C@H](C2(CC2)CC1)O)COC)C | C25H37ClN4O4
